US09283224B2
Step 5: 5-Acetyl-2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbonitrile
To a mixture of 2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbonitrile (450 mg, 1.66 mmol) in toluene (3 mL) was added acetyl chloride (0.176 mL, 2.49 mmol) at room temperature, under nitrogen, and zinc (217 mg, 3.32 mmol). The mixture was allowed to stir for 3 h at 80° C. The mixture was cooled to room temperature, diluted with EtOAc and washed with water. The aqueous layer was separated and extracted twice with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The crude material was chromatographed on silica gel (0 to 10% EtOAc/hexane) to afford the title compound (386 mg, 74%).

reactant | 2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbonitrile | 1.66 mmol, 450 mg | ClC1=C(C=C(C=C1)C(F)(F)F)C=1NC=CC1C#N | C12H6ClF3N2
reactant | acetyl chloride | 2.49 mmol, 0.176 mL | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc | 3.32 mmol, 217 mg | [Zn] | Zn
product | 5-Acetyl-2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbonitrile | 386 mg, 74% | C(C)(=O)C1=CC(=C(N1)C1=C(C=CC(=C1)C(F)(F)F)Cl)C#N | C14H8ClF3N2O
